US09422275B2
A solution of N-(4-(2-aminothiazol-4-yl)-3,5-dimethylphenyl)acetamide (1.31 g, 5.0 mmol) in 2N HCl (25 mL) was refluxed for 1 h and then cooled to 0° C. Na2CO3 was carefully added to the stirring mixture until no gas evolvement, and the pH was further adjusted to 8. The mixture was then extracted with EtOAc (4×50 mL), and the combined organic phase was dried over Na2SO4, filtered, concentrated, and provided 4-(4-amino-2,6-dimethylphenyl)thiazol-2-amine (1.03 g, 93.9% yield). The crude product was used for next reaction without further purification.

reactant | N-(4-(2-aminothiazol-4-yl)-3,5-dimethylphenyl)acetamide | 5.0 mmol, 1.31 g | NC=1SC=C(N1)C1=C(C=C(C=C1C)NC(C)=O)C | C13H15N3OS
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | HCl | 2N, 25 mL | Cl | ClH
product | 4-(4-amino-2,6-dimethylphenyl)thiazol-2-amine | 1.03 g, 93.9% yield | NC1=CC(=C(C(=C1)C)C=1N=C(SC1)N)C | C11H13N3S
